US09278983B2
To a mixture of 5-trifluoromethylpyridin-2,3-diamine (1.2 g) and pyridine (20 ml), methyl chloroformate (0.63 ml) was added under ice-cooling. The mixture was heated to room temperature, stirred for 8 hours, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 628 mg of methyl (2-amino-5-trifluoromethylpyridin-3-yl)-carbamate.

reactant | 5-trifluoromethylpyridin-2,3-diamine | 1.2 g | FC(C=1C=C(C(=NC1)N)N)(F)F | C6H6F3N3
reactant | methyl chloroformate | 0.63 ml | ClC(=O)OC | C2H3ClO2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | methyl (2-amino-5-trifluoromethylpyridin-3-yl)-carbamate | 628 mg | NC1=NC=C(C=C1NC(OC)=O)C(F)(F)F | C8H8F3N3O2
